US08859591B2
A mixture of pyrazole (40 g, 0.587 mol) and 2-chloro-2-methylpropane (81.7 g, 0.881 mol) were heated at 220° C. for 6 h in an autoclave. The reaction mixture was cooled to room temperature and adjusted to ˜pH 9 with saturated aqueous NaHCO3. The mixture was extracted with dichloromethane (200 mL×3). The combined organic layers were dried over Na2SO4 and concentrated to dryness, providing a 50 g of mixture, consisting mostly of 4-tert-butyl-1H-pyrazole and 1,4-di-tert-butyl-1H-pyrazole. 500 mg of this crude mixture was dissolved in THF (8 mL). The solution was cooled to 0° C. LiHMDS (6 mL of a 1M solution in THF, 6.0 mmol) was added. The mixture was stirred at 0° C. for 45 min. Di-t-butyldicarbonate (967 mg, 4.43 mmol) was added. The resulting mixture was stirred at room temperature overnight. The reaction was quenched by addition of 1N aqueous HCl and extracted with dichloromethane (10 mL×3). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated. The crude material was purified by silica gel chromatography to give tert-butyl 4-tert-butyl-1H-pyrazole-1-carboxylate (120 mg) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.82 (s, 1H), 7.63 (s, 1H), 1.64 (s, 9H), 1.26 (s, 9H).

reactant | 4-tert-butyl-1H-pyrazole | C(C)(C)(C)C=1C=NNC1 | C7H12N2
reactant | 1,4-di-tert-butyl-1H-pyrazole | C(C)(C)(C)N1N=CC(=C1)C(C)(C)C | C11H20N2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Di-t-butyldicarbonate | 4.43 mmol, 967 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-tert-butyl-1H-pyrazole-1-carboxylate | 120 mg | C(C)(C)(C)C=1C=NN(C1)C(=O)OC(C)(C)C | C12H20N2O2
